US07977372B2
3-(4-Bromo-2-fluoro-phenyl)-N-(4-chloro-phenyl)-acrylamide
A mixture of 3-(4-bromo-2-fluoro-phenyl)-acrylic acid (12.7 g, 52 mmol), 4-chloroaniline (9.9 g, 78 mmol), HOBt (10.5 g, 78 mmol) and EDCI (15.0 g, 78 mmol) in 200 mL of dichloromethane was refluxed overnight, and the resulting mixture was washed with 1M NaOH solution, water and brine, dried over Na2SO4, and concentrated. Recrystallization of the residue from EtOAc/Hexane gave 15 g (82%) of white solid. MS: calc'd 354 (MH+), exp 354 (MH+). 1H NMR (CDCl3, 400 MHz), 7.75 (d, 1H, J=15.6 Hz), 7.60 (d, 2H, J=8.8 Hz), 7.48 (s, 1H), 7.32-7.38 (m, 5H, J=7.6 Hz), 6.70 (d, 1H, J=15.6 Hz).

reactant | 3-(4-bromo-2-fluoro-phenyl)-acrylic acid | 52 mmol, 12.7 g | BrC1=CC(=C(C=C1)C=CC(=O)O)F | C9H6BrFO2
reactant | 4-chloroaniline | 78 mmol, 9.9 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | HOBt | 78 mmol, 10.5 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 78 mmol, 15.0 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 3-(4-Bromo-2-fluoro-phenyl)-N-(4-chloro-phenyl)-acrylamide | 15 g, 82% | BrC1=CC(=C(C=C1)C=CC(=O)NC1=CC=C(C=C1)Cl)F | C15H10BrClFNO
